datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]1[CH:11]=[NH+:12][C:62]2=[C:61]1[CH:72]=[C:73](C)[CH:64]=[CH:63]2)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)O/[C:11](=[CH:10]/[N:61]=[C:62](C1=CC=CC=C1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:85]=[CH:84]1)[O-:12].CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[CH:10]([C:11](OC(C)(C)C)=[O:12])[N:61]=[C:62](C2=CC=CC=C2)[C:63]2=[CH:64][CH:65]=[CH:66][CH:85]=[CH:84]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C[C:11]1=[CH:10][C:61]2=[C:62]([NH:12]1)[CH:63]=[CH:64][C:73](Cl)=[CH:72]2.C[CH+:20][C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28>>C[C:11]1=[NH+:12][C:62]2=[C:61]([CH:10]1[CH:20](C)[C:31]13C4C5C6C1[Fe:32]56431789C3C1C7C8C39)[CH:72]=[C:73](Cl)[CH:64]=[CH:63]2 10,11=10,20;12=11,12"
"CSC[C:20](C)=[O:21].C[Si](C)(C)[O:64][C:13]1=[CH:12][CH:11]=[CH:10][O:14]1>>CSC[C:20](C)([CH:10]1[CH:11]=[CH:12][C:13]([O:64][Si](C)(C)C)=[O+:14]1)[O-:21] 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C[N:10]1CCCC1.C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23]>>C[N+:10]1([CH2:20][CH:21]=[C:22]([O-:23])[N:33](C)C)CCCC1 10=20;20,21=21,22;22,23=23"
"CN(C)C1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1>>CN(C)C1=CC=C([CH:20]([N+:10]2=[CH:61][CH:62]=[C:63](C)[CH:72]=[CH:71]2)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10=20;20,21=21,22;22,23=23"
"CCCC[Si:63](CCCC)(CCCC)[CH2:62][CH:11]=[CH2:10].COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC>>CCCC[Si:63](CCCC)(CCCC)[CH2:62][CH+:11][CH2:10][CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC(OC)=C(OC)C(OC)=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(CC2C[O:62][C:11]([O-:12])=[N:10]2)C=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1C(CC2=CC=CC=C2)C[O:62][C:11]1=[O:12])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:20](=[O:21])CC1.CC[O:82][C:71]([C-:10]([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:72]>>CC[O:82][C:71]([C:10]([C:20]1([O-:21])CCCCC1)([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:72] 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].FC(F)(F)[S:71](/[CH:10]=[C:11]1\[CH:12]=[CH:13][C:14](=[C:15]=[N-:16])[CH:63]=[CH:62]1)(=[O:72])=[O:82]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([C:11]1=[CH:12][CH:13]=[C:14]([C:15]#[N:16])[CH:63]=[CH:62]1)[S:71](C(F)(F)F)(=[O:72])=[O:82])[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=[O+:12]1.CC1=CC=[C:10]([C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)S1 10,11=10,20;12=11,12"
"CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)[O-:12].COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1>>CC[O:72][C:11]([CH:10]([CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)/[CH:41]=[CH:42]/C1=CC=C(OC)C=C1)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10]2CC2)[O:12]1.F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.F[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CC2)[C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
